US07220744B2
b) 4-(5-Propionyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of 0.83 mmol 4-(dimethylaminomethylene-thiocarbamoyl)-piperazine-1-carboxylic acid tert-butyl ester in 6 ml ethanol were added 2.50 mmol triethylamine and 1.00 mmol 1-bromo-2-butanone. The mixture was heated at 90° C. for 16 h. The reaction mixture was then concentrated in vacuo and the residue was purified by chromatography (SiO2, ethyl acetate/heptane) to afford the title compound as a white crystalline solid (yield 72%). MS (m/e): 326.1 (M+H+, 100%).

reactant | 4-(dimethylaminomethylene-thiocarbamoyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.83 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C(N=CN(C)C)=S | C13H24N4O2S
reactant | triethylamine | 2.50 mmol | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-2-butanone | 1.00 mmol | BrCC(CC)=O | C4H7BrO
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 4-(5-Propionyl-thiazol-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | yield 72% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1SC(=CN1)C(CC)=O | C15H23N3O3S
